Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Bicycle accident
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ years old gentleman presented to the ED as a Trauma Basic 
aftera bicycle accident (bicycle vs SUV mirror), +LOC, small 
splenic lac, left lateral 8th rib fracture and a CT head showing 
probable SAH. He was neurologically intact and had no other 
injuries. He was admitted to the ___ for Q1H neurochecks.
 
Past Medical History:
PMH: HTN, HLD, pre-DM, kidney stones

PSH: ureteroscopy
 
Social History:
___
Family History:
___ (mother and father)
 
Physical Exam:
Vital signs stable
98.3, 77, 128/77, 16, 99%RA
General: Stable, no acute distress, AAOx3
HEENT: no head injuries, no pain, EOMI PERRLA, mucosas moist
Pulmonary: clear to auscultation bilaterally, no wheezing. No 
pain with deep inspiration
Cardiovascular: regular rate and rhythm, no murmurs, rubs or 
gallops
Abdomen: soft, nontender, nondistended, normal bowel function
Extremities: warm and well perfused, peripheral pulses normal, 
no pain
Neuro: intact, sensory normal, strength ___ in bilateral upper 
and lower extremities
 
Pertinent Results:
LABS:

___ 10:31PM BLOOD WBC-12.0* RBC-4.39* Hgb-13.3* Hct-40.3 
MCV-92 MCH-30.3 MCHC-33.0 RDW-13.8 RDWSD-46.9* Plt ___
___ 06:13AM BLOOD WBC-10.0 RBC-3.92* Hgb-11.9* Hct-35.8* 
MCV-91 MCH-30.4 MCHC-33.2 RDW-14.2 RDWSD-47.8* Plt ___
___ 10:31PM BLOOD Plt ___
___ 01:35AM BLOOD ___ PTT-25.3 ___
___ 06:13AM BLOOD Plt ___
___ 02:20PM BLOOD ___ 02:20PM BLOOD UreaN-20 Creat-1.0
___ 01:35AM BLOOD Glucose-118* UreaN-18 Creat-1.0 Na-143 
K-4.3 Cl-106 HCO3-26 AnGap-11
___ 02:20PM BLOOD Lipase-19
___ 01:35AM BLOOD Calcium-8.4 Phos-4.1 Mg-2.0
___ 02:20PM BLOOD ___ Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:35PM BLOOD Glucose-98 Lactate-2.0 Na-142 K-4.5 
Cl-100 calHCO3-28
___ 02:35PM BLOOD freeCa-1.09*

IMAGING:

CXR ___
IMPRESSION:  
No acute cardiopulmonary process. 

CT head ___
IMPRESSION:  
Hemorrhage noted at the foramen magnum and within the left 
cerebellopontine angle cistern, likely subarachnoid.  No other 
acute intracranial hemorrhage, no mass effect. 

CT torso ___
IMPRESSION: 
1. A 3 mm linear subcapsular splenic hypodensity with small 
adjacent 
perisplenic fluid, suggestive of splenic laceration. 
2. Acute left lateral eighth rib fracture. 
3. No other acute intrathoracic or intra-abdominal injury. 
4. A 3 mm right upper lobe pulmonary nodule for which no 
additional imaging is necessary unless patient has risk factors 
in which case optional one year follow-up can be obtained. 

CT C-spine ___
IMPRESSION:    
High density material within the canal at the C2 level 
compatible with 
hemorrhage, likely subarachnoid.  No cervical spine fracture or 
malalignment. 

Elbow X-ray ___
IMPRESSION:    
No fracture of the right humerus or bilateral elbows. 

Humerus X-ray ___
IMPRESSION:    
No fracture of the right humerus or bilateral elbows. 

 
Brief Hospital Course:
Mr. ___ was admitted to the ___ after presenting to the ED 
after having a bicycle accident. In the ED he had a CT head that 
showed an image concerning for a subarachnoid hemorrhage. 
Neurosurgery was consulted and they recommended nothing to do 
and said the image was probably an artifact. He also had a CT 
torso that showed a small left 8th rib fracture and a small 
splenic laceration. During his whole ED stay he was stable and 
neurologically intact but it was decided to admit him to the 
___ for Q1H neurochecks.
Patient did well overnight. Pain was well controlled and he 
continued to be neurologically intact. No acute changes in 
mental status were seen. At the time of discharge, the patient 
was doing well, afebrile with stable vital signs. The patient 
was tolerating a regular diet, ambulating, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged home without services. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.
 
Medications on Admission:
___, amlodipine, lisinopril, Flomax, metformin
 
Discharge Medications:
___, amlodipine, lisinopril, Flomax, metformin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small splenic laceration and 1 rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
you had an accident on your bicycle. You are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

You had a small spleen lacerations:

*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

You also had 1 rib Fractures:

* Rib fractures which can cause severe pain and subsequently 
cause you to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain (ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Continue to take 
all your home medications.
 
Followup Instructions:
___